US06951745B2
Each of the above described immobilized enzyme was suspended in 0.1 M phosphoric acid buffer (pH 7.0) 48 parts by mass. Subsequently (R,S)-3-hydroxy-5-phenoxyvaleryl CoA 1 mass part, which had been prepared by hydrolyzing 3-hydroxy-5-phenoxy valerianate obtained by Reformatsky reaction with zinc using 3-phenoxy propanal and ethyl bromoacetate that were synthesized by a method given in J. Org. Chem., 55, 1490-1492 (1990) as materials, to obtain 3-hydroxy-5-phenoxy valeric acid, and subsequently treating this was treated by a method in Eur. J. Biochem., 250, 432-439 (1997), and bovine serum albumin (manufactured by Sigma-Aldrich Com.) 0.1 mass part were added hereto. The resultant mixture was shaken gently at 30° C. for 2 hours. A blue microencapsulated pigment produced (hereinafter referred to as coloring agent) was filtrated, washed and dried, coloring agent 1 was thus obtained.

reactant | 3-phenoxy propanal | O(C1=CC=CC=C1)CCC=O | C9H10O2
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
product | 3-hydroxy-5-phenoxy valeric acid | OC(CC(=O)O)CCOC1=CC=CC=C1 | C11H14O4
